US06358665B1
To a stirred solution of 60.0 g (0.174 mol) of bis-(4-t-butoxyphenyl) sulfoxide in 26.8 g (0.34 mol) of pyridine and 400 ml of tetrahydrofuran was dropped 75.6 g (0.34 mol) of trimethylsilyl 3,3,3,2,1,1-hexafluoropropane sulfonate while keeping the solution temperature below −5° C. with a salted (sodium chloride) ice bath. After completion of the addition, the reaction temperature was raised to 5° C., followed by stirring for 20 minutes. A Grignard reagent solution was prepared from 8.4 g (0.34 mol) of shaved magnesium, 100 g of tetrahydrofuran and 42.8 g (0.38 mol) of chlorobenzene, and added dropwise to the above solution at 0° C. The mixture was stirred for 2 hours at this temperature. Then water was added to decompose the excess Grignard reagent. The inorganic salts were removed by filtration. The solution was concentrated to about 160 ml and extracted with 1200 ml of dichloromethane, 600 g of a saturated solution of ammonium chloride and 600 ml of water. The organic phase was washed twice with water and dried. The solvent was removed to yield an oily product which was applied to column chromatography on silica gel using dichloromethane as the developing solvent. The corresponding fractions were combined and concentrated to obtain bis-(4-butoxyphenyl)phenyl sulfonium 3,3,3,2,1,1-hexafluoropropane sulfonate as a slightly yellowish powder (m.p. 102° C.). The structure was confirmed by 1H-NMR (CDCl3) with δ=1.42 (s, 18H), 5.32-5.54 (d[m], 1H), 7.20-7.23 (d, 4H), and 7.63-7.79 ppm (m, 9H).

reactant | bis-(4-t-butoxyphenyl) sulfoxide | 0.174 mol, 60.0 g | C(C)(C)(C)OC1=CC=C(C=C1)S(=O)C1=CC=C(C=C1)OC(C)(C)C | C20H26O3S
reactant | pyridine | 0.34 mol, 26.8 g | N1=CC=CC=C1 | C5H5N
reactant | trimethylsilyl 3,3,3,2,1,1-hexafluoropropane sulfonate | 0.34 mol, 75.6 g | FC(C(C(S(=O)(=O)O[Si](C)(C)C)(F)F)F)(F)F | C6H10F6O3SSi
reactant | magnesium | 0.34 mol, 8.4 g | [Mg] | Mg
reactant | chlorobenzene | 0.38 mol, 42.8 g | ClC1=CC=CC=C1 | C6H5Cl
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 g | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | bis-(4-butoxyphenyl)phenyl sulfonium 3,3,3,2,1,1-hexafluoropropane sulfonate | FC(C(C(S(=O)(=O)[O-])(F)F)F)(F)F.C(CCC)OC1=CC=C(C=C1)[S+](C1=CC=CC=C1)C1=CC=C(C=C1)OCCCC | InChI=1S/C26H31O2S.C3H2F6O3S/c1-3-5-20-27-22-12-16-25(17-13-22)29(24-10-8-7-9-11-24)26-18-14-23(15-19-26)28-21-6-4-2;4-1(2(5,6)7)3(8,9)13(10,11)12/h7-19H,3-6,20-21H2,1-2H3;1H,(H,10,11,12)/q+1;/p-1
